US04703054
1-[2-(4-Hydroxy-2-oxo-1-pyrrolidineacetamido)acetyl]-2,2,5-trimethyl-4-imidazolidinone
The same procedure of Example 11, starting from 4-hydroxy-2-oxo-1-pyrrolidineacetic acid and 1-(2-aminoacetyl)-2,2,5-trimethyl-4-imidazolidinone, gave the title compound as a diastereoisomeric mixture, m.p. 218°-220° C. Mass spectrum (E.I., 70 eV, 1.5 mA), m/z=269 (M.+ --C3H7N).

reactant | 4-hydroxy-2-oxo-1-pyrrolidineacetic acid | OC1CC(N(C1)CC(=O)O)=O | C6H9NO4
reactant | 1-(2-aminoacetyl)-2,2,5-trimethyl-4-imidazolidinone | NCC(=O)N1C(NC(C1C)=O)(C)C | C8H15N3O2
product | 1-[2-(4-Hydroxy-2-oxo-1-pyrrolidineacetamido)acetyl]-2,2,5-trimethyl-4-imidazolidinone | OC1CC(N(C1)CC(=O)NCC(=O)N1C(NC(C1C)=O)(C)C)=O | C14H22N4O5
